US05847253
The first alkylation reactor effluent stream enters a heat exchanger 22, where the first alkylation reactor effluent stream is cooled by exchanging heat indirectly with another stream in the process or with boiler feed water to produce low pressure steam. The cooled first alkylation reactor effluent stream passes through a line 24 and is admixed with another stream containing propylene and propane that enters the process in a line 28. This produces a second alkylation reactor feed stream carried by a line 26. The second alkylation reactor feed stream may be heated in a heat exchanger or a heater, which is not shown, and enters a second alkylation reactor 30. The second alkylation reactor feed stream contacts a beta zeolite catalyst maintained at alkylation conditions to alkylate benzene with propylene to produce cumene. The second alkylation reactor effluent stream, which contains benzene, cumene, DIPB, heavier alkylated hydrocarbons, and water, exits the second alkylation reactor 30 in a line 32. The second alkylation reactor effluent stream may be depressured by passing through a pressure control valve which is not shown, may be heated in a heater or heat exchanger which is also not shown, or both. The second alkylation reactor effluent stream then enters a stripping column 40 at a feed point above the top tray of the stripping column 40.

reactant | water | O | H2O
reactant | propylene | C=CC | C3H6
reactant | propane | CCC | C3H8
reactant | benzene | C1=CC=CC=C1 | C6H6
product | cumene | C1(=CC=CC=C1)C(C)C | C9H12
